US04548932
In 30 ml of 5N hydrogen chloride-ethyl acetate solution is dissolved 5 g of 3(S)-tert-butoxycarbonylamino-2,3,4,5-tetrahydro-1,5-benzoxazepine-4-one, and the mixture is allowed to stand at room temperature for 3 hours. The deposited crystals are collected by filtration to give 3.8 g of 3(S)-amino-2,3,4,5-tetrahydro-1,5-benzoxazepine-4-one hydrochloride as a colorless needles, melting at 230°-240° C. (decomposition).

reactant | 3(S)-tert-butoxycarbonylamino-2,3,4,5-tetrahydro-1,5-benzoxazepine-4-one | 5 g | C(C)(C)(C)OC(=O)N[C@H]1COC2=C(NC1=O)C=CC=C2 | C14H18N2O4
reactant | hydrogen chloride-ethyl acetate | 5N, 30 ml | C(C)(=O)OCC.Cl
product | 3(S)-amino-2,3,4,5-tetrahydro-1,5-benzoxazepine-4-one hydrochloride | 3.8 g | Cl.N[C@H]1COC2=C(NC1=O)C=CC=C2 | InChI=1S/C9H10N2O2.ClH/c10-6-5-13-8-4-2-1-3-7(8)11-9(6)12;/h1-4,6H,5,10H2,(H,11,12);1H/t6-;/m0./s1
